US08729105B2
Preparation of 4-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine-2-carboxylic acid (3-trifluoromethyl-isoxazol-5-ylmethyl)-amide
The title compound was synthesized in analogy to Example 1, using 4-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine-2-carboxylic acid (example AA) and 3-trifluoromethyl-isoxazol-5-methanamine (example BA) as starting materials; MS: 481.0 (M+H)+.

reactant | 4-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=NC(=NC=C1OCC(F)(F)F)C(=O)O | C13H8ClF3N2O3
reactant | 3-trifluoromethyl-isoxazol-5-methanamine | FC(C1=NOC(=C1)CN)(F)F | C5H5F3N2O
product | 4-(4-chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine-2-carboxylic acid (3-trifluoromethyl-isoxazol-5-ylmethyl)-amide | FC(C1=NOC(=C1)CNC(=O)C1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)OCC(F)(F)F)(F)F | C18H11ClF6N4O3
